* This is the potentiometer
*      _____
*  1--|_____|--2
*        |
*        3
*
.SUBCKT pot-linear 1 2 3
.param wp=limit(w,1m,.999)
R0 1 3 {R*(1-wp)}
R1 3 2 {R*(wp)}
.ENDS
